US03950393
2-Amino-3-bromo-N,N-dimethyl-5-methoxy-benzylamine was prepared from 2-amino-N,N-dimethyl-5-methoxy-benzylamine and bromine analogous to Example 9. Proof of structure by IR-, UV- and NMR-spectra. IR-spectrum (methylenechloride): 3250 cm-1NH2 ; 3410 cm-1NH2 ; 2780 cm-1N(CH3)2 ; 2830 cm-1OCH3 ; 1590 cm-1C=C; 1600 cm-1C=C.

reactant | 2-amino-N,N-dimethyl-5-methoxy-benzylamine | NC1=C(CN(C)C)C=C(C=C1)OC | C10H16N2O
reactant | bromine | BrBr | Br2
solvent | methylenechloride | C(Cl)Cl | CH2Cl2
product | 2-Amino-3-bromo-N,N-dimethyl-5-methoxy-benzylamine | NC1=C(CN(C)C)C=C(C=C1Br)OC | C10H15BrN2O
